US07514564B2
Step A: Preparation of tert-butyl 4-[(6-nitro-3,3-dimethylindolinyl)methyl]piperidinecarboxylate
3,3-Dimethyl-6-nitroindoline (450 mg) was dissolved in 20 mL of dichloroethane, N-boc-4-formylpiperidine (750 mg) was added to the mixture, followed by 2 g NaHB(OAc)3 and 1 mL of glacial ACOH. The mixture was stirred at RT overnight. Saturated NaHCO3 solution (20 mL) was added to the reaction mixture and stirred for 1 h. The resulting mixture was separated by separation funnel, the organic layer was extracted once with saturated NaHCO3 solution and once with brine. The resulting organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel with 9:1 Hexane:EtOAc to afford an orange oil. MS: 290 (M−99). Calc'd. for C21H31N3O4−389.5.

reactant | 3,3-Dimethyl-6-nitroindoline | 450 mg | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
reactant | N-boc-4-formylpiperidine | 750 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)C=O | C11H19NO3
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | tert-butyl 4-[(6-nitro-3,3-dimethylindolinyl)methyl]piperidinecarboxylate | [N+](=O)([O-])C1=CC=C2C(CN(C2=C1)CC1CCN(CC1)C(=O)OC(C)(C)C)(C)C | C21H31N3O4
